US04198414
4,4-Dimethyl-6-phenyl-4H-pyrrolo[3,2,1-ij]quinolin-1,2-dione
A solution of 1,2-dihydro-2,2-dimethyl-4-phenylquinoline (5.0 g., 21.2 mMole) in 50 ml. dry methylene chloride was added dropwise with stirring to oxalyl chloride (2.77 g., 22.0 mMole) in 200 ml. dry methylene chloride at 30° C. and protected from moisture. Addition required one hour, and when complete the orange solution was stirred 30 minutes at ambient temperature and two hours at reflux. The solvent was removed at reduced pressure and the purple-brown crystalline residue air dried. A single recrystallization from chloroform/60°-110° C. ligroine produced a solid 3.97 g. (63.5%) melting at 210.5°-212° C.

reactant | 1,2-dihydro-2,2-dimethyl-4-phenylquinoline | 21.2 mMole, 5.0 g | CC1(NC2=CC=CC=C2C(=C1)C1=CC=CC=C1)C | C17H17N
reactant | oxalyl chloride | 22.0 mMole, 2.77 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-6-phenyl-4H-pyrrolo[3,2,1-ij]quinolin-1,2-dione | 3.97 g | CC1(N2C3=C(C=CC=C3C(=C1)C1=CC=CC=C1)C(C2=O)=O)C | C19H15NO2
